US06849624B2
a) 4-(5-Nitro-pyridin-2-yl)-thiomorpholine
To a solution of 20 g (126 mmol) of 2-chloro-5-nitropyridine in 200 ml tetrahydrofuran were added dropwise 32.5 ml (315 mmol) thiomorpholine within 10 min. The reaction mixture was refluxed for additional 2 h. After cooling to room temperature, the solvent was removed in vacuo and the residue was re-dissolved in 200 ml ethyl acetate. The organic phase was washed with 200 ml 1 N sodium bicarbonate solution, dried (magnesium sulfate) and evaporated to give 29.3 g (quantitative) of the title compound as a yellow solid.

reactant | 2-chloro-5-nitropyridine | 126 mmol, 20 g | ClC1=NC=C(C=C1)[N+](=O)[O-] | C5H3ClN2O2
reactant | thiomorpholine | 315 mmol, 32.5 ml | N1CCSCC1 | C4H9NS
solvent | tetrahydrofuran | 200 ml | O1CCCC1 | C4H8O
product | 4-(5-Nitro-pyridin-2-yl)-thiomorpholine | [N+](=O)([O-])C=1C=CC(=NC1)N1CCSCC1 | C9H11N3O2S
